US07994202B2
Ethyl 2-{6-(cyclopentyloxy)-3-phenyl-1H-indazol-1-yl}thiazole-4-carboxylate
Sodium hydride (added with 40% mineral oil, 13.5 mg, manufactured by Kanto Chemical Co., Inc.) was added to a solution of ethyl 2-(6-hydroxy-3-phenyl-1H-indazol-1-yl)thiazole-4-carboxylate (20 mg), which had been synthesized from the compound of Reference Example 20 according to the method of Example 3, in N,N-dimethylformamide (1 mL, manufactured by Kanto Chemical Co., Inc.) under ice cooling, and the mixture was stirred for 5 minutes at the same temperature. Subsequently, bromocyclopentane (269 mg, manufactured by Kanto Chemical Co., Inc.) was added, and the mixture was stirred overnight at room temperature. Water (10 mL) was added to the reaction solution, and the mixture was extracted with diethyl ether (3×10 mL), washed with brine (10 mL), and dried (MgSO4). The solvent was then evaporated. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=7:1), to give 6.9 mg of the title compound. LC-MS: HPLC retention time 2.13 minutes, m/z 434 (M+H), condition C-1.

reactant | Sodium hydride | 13.5 mg | [H-].[Na+]
reactant | ethyl 2-(6-hydroxy-3-phenyl-1H-indazol-1-yl)thiazole-4-carboxylate | 20 mg | OC1=CC=C2C(=NN(C2=C1)C=1SC=C(N1)C(=O)OCC)C1=CC=CC=C1 | C19H15N3O3S
reactant | bromocyclopentane | 269 mg | BrC1CCCC1 | C5H9Br
reactant | Water | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | Ethyl 2-{6-(cyclopentyloxy)-3-phenyl-1H-indazol-1-yl}thiazole-4-carboxylate | 6.9 mg | C1(CCCC1)OC1=CC=C2C(=NN(C2=C1)C=1SC=C(N1)C(=O)OCC)C1=CC=CC=C1 | C24H23N3O3S
